US06133255
Step 1: 2-Benzyloxy-3-(N,N-dimethylamino)propenal
Prepared by a modification of the literature procedure reported in Croat. Chim. Acta, 1966, 235. Phosphorus pentachloride (0.13 mol) was added to benzyloxyacetaldehyde diethyl acetal (0.13 mol) at 20-30° C. The reaction mixture was heated at 60° C. for 75 min and then cooled to 0° C. The reaction mixture was treated with DMF (0.39 mol) and stirred at room temperature for four days. The reaction mixture was diluted with 1.0N HCl(aq) (200 ml) and ether (200 ml). The ether layer was discarded and the aqueous layer was basified with 8N NaOH(aq). The aqueous layer was extracted with ethyl acetate and ether and the combined organic extracts were dried (MgSO4), filtered and evaporated in vacuo. The resulting black oil was purified by column chromatography to give the product as a brown solid (0.06 mol, 43%). δH (250 MHz; CDCl3) 8.62 (1H, s), 7.44-7.26 (5H, m), 6.18 (1H, s), 4.96 (2H, s), 3.04 (6H, s).

reactant | Phosphorus pentachloride | 0.13 mol | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | benzyloxyacetaldehyde diethyl acetal | 0.13 mol | C(C)OC(COCC1=CC=CC=C1)OCC | C13H20O3
reactant | DMF | 0.39 mol | CN(C)C=O | C3H7NO
reactant | NaOH | 8N | [OH-].[Na+]
solvent | HCl | 1.0N, 200 ml | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-Benzyloxy-3-(N,N-dimethylamino)propenal | 0.06 mol, 43% | C(C1=CC=CC=C1)OC(C=O)=CN(C)C | C12H15NO2
